US03962334
2,2'-Bis(3-Dimethylamino-2-Methylpropoxy)Benzil
A suspension of 15 g. (0.023 M) of 2,2'-dihydroxybenzil dithallium salt in 500 ml. of dry toluene was stirred vigorously while adding dropwise a solution of 8.8 g. (0.05 M) of 3-dimethylamino-2-methyl propyl chloride in 91.5 ml. of toluene. The mixture was gradually heated to reflux during the addition, and the resulting mixture was stirred and refluxed for 12 hours before a color change was observed. After cooling to 25°, the pale yellow solid was filtered off and washed with toluene. The material was resuspended in toluene and filtered off again. The combined filtrates were washed with 10% sodium hydroxide solution, saturated brine solution, and finally dried over MgSO4. Evaporation of the dry toluene extract with heating up to 70° at 11 mm resulted in an oily residue. Various salts were prepared but failed to solidify. The free base was regenerated and the crude material began to crystallize. The product was recrystallized from hexane. After cooling to +5° overnight, the material was filtered off and dried in vacuo over P2O5 and paraffin wax to obtain 3.8 g. of the title compound; m.p. 69°-70°; λKbr/max 3.55, 5.88, 6.10, 6.55, 6.72 μ.

reactant | 2,2'-dihydroxybenzil dithallium salt | 0.023 M | [Tl].[Tl].OC1=C(C=CC=C1)C(=O)C(=O)C1=C(C=CC=C1)O
reactant | 3-dimethylamino-2-methyl propyl chloride | 0.05 M | CN(CC(CCl)C)C | C6H14ClN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,2'-Bis(3-Dimethylamino-2-Methylpropoxy)Benzil | CN(CC(COC1=C(C=CC=C1)C(=O)C(=O)C1=C(C=CC=C1)OCC(CN(C)C)C)C)C | C26H36N2O4
